US05958942
iv) Synthesis of 1-(3,3-dimethyl-5-hydroxypentyl)-phthalimide
To a solution of 5.70 g (14.9 mmol) of 1-(3,3-dimethyl-5-benzyloxymethoxypentyl)phthalimide in 70 ml of methanol was added 3.75 ml (45 mmol) of conc. HCl. The mixture was stirred for 3 hours at 60° C. The reaction mixture was cooled, and the solvent was distilled off. The residue was dissolved in 100 ml of water, to which was added 30 ml of 1N aqueous solution of sodium hydroxide. The mixture was extracted with dichloromethane. The extract solution was dried, and the solvent was distilled off. The residue was purified by column chromatography (eluent: n-hexane/ethyl acetate=2:1→1:2) to give 3.63 g of the desired compound (93.2%, white solid).

reactant | 1-(3,3-dimethyl-5-benzyloxymethoxypentyl)phthalimide | 14.9 mmol, 5.70 g | CC(CCC12C(=O)NC(C1C=CC=C2)=O)(CCOCOCC2=CC=CC=C2)C | C23H29NO4
reactant | HCl | 45 mmol, 3.75 ml | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
product | 1-(3,3-dimethyl-5-hydroxypentyl)-phthalimide | 3.63 g, 93.2% | CC(CCC12C(=O)NC(C1C=CC=C2)=O)(CCO)C | C15H21NO3
